US06603008B1
5-{5-[4-(1,3-Thiazol-4-yl)phenyl]-3-(trifluoromethyl)-1H-pyrazol-1-yl}-2-pyridinesulfonamide Hydrochloride (Step 2)
To a solution of 5-{5-[4-(1,3-thiazol-4-yl)phenyl]-3-(trifluoromethyl)-1H-pyrazol-1-yl}-2-pyridinesulfonamide (470 mg, 1.04 mmol) in dichloromethane (6 ml) was added methanolic hydrochloric acid (4 ml) at room temperature. After evaporation, the residue obtained was recrystallized from methanol/diethyl ether to give 467 mg (92%) of the title compound as a white solid.

reactant | 5-{5-[4-(1,3-thiazol-4-yl)phenyl]-3-(trifluoromethyl)-1H-pyrazol-1-yl}-2-pyridinesulfonamide | 1.04 mmol, 470 mg | S1C=NC(=C1)C1=CC=C(C=C1)C1=CC(=NN1C=1C=CC(=NC1)S(=O)(=O)N)C(F)(F)F | C18H12F3N5O2S2
reactant | hydrochloric acid | 4 ml | Cl | ClH
solvent | dichloromethane | 6 ml | ClCCl | CH2Cl2
product | 5-{5-[4-(1,3-Thiazol-4-yl)phenyl]-3-(trifluoromethyl)-1H-pyrazol-1-yl}-2-pyridinesulfonamide Hydrochloride | 467 mg, 92% | Cl.S1C=NC(=C1)C1=CC=C(C=C1)C1=CC(=NN1C=1C=CC(=NC1)S(=O)(=O)N)C(F)(F)F | InChI=1S/C18H12F3N5O2S2.ClH/c19-18(20,21)16-7-15(12-3-1-11(2-4-12)14-9-29-10-24-14)26(25-16)13-5-6-17(23-8-13)30(22,27)28;/h1-10H,(H2,22,27,28);1H
